US07521446B2
4. 4-({8-[(2,6-Difluorophenyl)amino]-9-cyclopentylpurin-2-yl}amino) trans-cyclohexan-1-ol
4-{[5-Amino-4-(cyclopentylamino)pyrimidin-2-yl]amino}trans-cyclohexan-1-ol (1.13 mmol, 330 mg) was dissolved in DMF (8.5 mL) and 2,6-difluorophenyl-isothiocyanate (1.13 mmol, 0.146 mL) was added. The reaction mixture was stirred at room temperature for about 90 minutes. Ethanol (2.5 mL) was added and the reaction mixture was stirred for about an additional 30 minutes. N,N-Diisopropylcarbodiimide (3.40 mmol, 0.532 mL) was added and the reaction mixture was stirred overnight. Solvent was removed and the residue was purified using column chromatography (SiO2, 1:1 n-hexanes/ethyl acetate →ethyl acetate →1% methanol/ethyl acetate) to give the desired product (222.5 mg, 46% yield). ES-MS: 429 (M+1). Tetrahydrofuran can also be used as solvent in this step.

reactant | 4-{[5-Amino-4-(cyclopentylamino)pyrimidin-2-yl]amino}trans-cyclohexan-1-ol | 1.13 mmol, 330 mg | NC=1C(=NC(=NC1)N[C@@H]1CC[C@H](CC1)O)NC1CCCC1 | C15H25N5O
reactant | 2,6-difluorophenyl-isothiocyanate | 1.13 mmol, 0.146 mL | FC1=C(C(=CC=C1)F)N=C=S | C7H3F2NS
reactant | Ethanol | 2.5 mL | C(C)O | C2H6O
reactant | N,N-Diisopropylcarbodiimide | 3.40 mmol, 0.532 mL | CC(C)N=C=NC(C)C | C7H14N2
solvent | DMF | 8.5 mL | CN(C)C=O | C3H7NO
product | 4-({8-[(2,6-Difluorophenyl)amino]-9-cyclopentylpurin-2-yl}amino) trans-cyclohexan-1-ol | 222.5 mg, 46% yield | FC1=C(C(=CC=C1)F)NC=1N(C2=NC(=NC=C2N1)N[C@@H]1CC[C@H](CC1)O)C1CCCC1 | C22H26F2N6O
